US07919504B2
To a stirred mixture of 5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-amine (97 mg, 0.42 mmol) (prepared as shown in Scheme 5 using isoquinoline-6-carboxylic acid, commercially available from AstaTech Product List (Order Number 62874), instead of 4-chlorothieno[2,3-c]pyridine-2-carboxylic acid) and (±)-cis-1-(tert-butoxycarbonyl)-3-phenylpyrrolidine-2-carboxylic acid ((Damour et al. Synlett 1999, 2, 189-192), 149 mg, 0.51 mmol) in DMF (5.0 mL) was added EDC (122 mg, 0.64 mmol), HOBt (86 mg, 0.64 mmol) and DIEA (0.22 mL, 1.3 mmol). The mixture was stirred at room temperature for 24 hours. Aqueous NH4Cl (5 mL), water (5 mL) and DCM (10 mL) were added. The aqueous layer was extracted with DCM (3×10 mL). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated. The crude residue was purified by flash column chromatography (eluting with a gradient from DCM to 5% MeOH in DCM) to provide (±)-cis-tert-butyl 2-((5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)carbamoyl)-3-phenylpyrrolidine-1-carboxylate as a white foam (64 mg, 30%). LCMS (M+H) 502.2 calc. for C27H28N5O3S 502.2.

reactant | 5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-amine | 0.42 mmol, 97 mg | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)N | C11H8N4S
reactant | isoquinoline-6-carboxylic acid | C1=NC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | 4-chlorothieno[2,3-c]pyridine-2-carboxylic acid | ClC1=C2C(=CN=C1)SC(=C2)C(=O)O | C8H4ClNO2S
reactant | (±)-cis-1-(tert-butoxycarbonyl)-3-phenylpyrrolidine-2-carboxylic acid | 0.51 mmol, 149 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CC1)C1=CC=CC=C1)C(=O)O | C16H21NO4
reactant | EDC | 0.64 mmol, 122 mg
reactant | HOBt | 0.64 mmol, 86 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.3 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | (±)-cis-tert-butyl 2-((5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)carbamoyl)-3-phenylpyrrolidine-1-carboxylate | 64 mg, 30% | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)NC(=O)[C@@H]1N(CC[C@@H]1C1=CC=CC=C1)C(=O)OC(C)(C)C | C27H27N5O3S
